US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 4-fluoroaniline to yield 2-[(4-fluorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 2-[(4-fluorophenyl)amino]phenylacetic acid | FC1=CC=C(C=C1)NC1=C(C=CC=C1)CC(=O)O | C14H12FNO2
